US06908936B2
[2-(2-Benzotriazol-1-ylmethyl-benzimidazol-1-yl)-ethyl]-methyl-amine
In an oven dried round bottom flask, lithium aluminum hydride (26 mg, 0.69 mmol) and aluminum chloride (97 mg, 0.73 mmol) were stirred in 10 mL of anhydrous tetrahydrofuran at 70-80° C. for 1 hour. 2-(2-Benzotriazol-1-ylmethyl-1-H-benzimidazol-1-yl)-N-methyl acetamide (50 mg, 0.156 mmol) was added. After 3 hours, more lithium aluminum hydride (1 M in tetrahydrofuran, 0.312 mL, 0.312 mmol) was added. The reaction mixture was allowed to stirred for 2 additional hours. The solvent was evaporated, and the residue was purified by flash chromatography (CH2Cl2/MeOH=15:1) to give 14 mg (28%) of the title compound as an oil.

reactant | lithium aluminum hydride | 0.69 mmol, 26 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | aluminum chloride | 0.73 mmol, 97 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-(2-Benzotriazol-1-ylmethyl-1-H-benzimidazol-1-yl)-N-methyl acetamide | 0.156 mmol, 50 mg | N1(N=NC2=C1C=CC=C2)CC2=NC1=C(N2CC(=O)NC)C=CC=C1 | C17H16N6O
reactant | lithium aluminum hydride | 0.312 mmol, 1 M, 0.312 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | [2-(2-Benzotriazol-1-ylmethyl-benzimidazol-1-yl)-ethyl]-methyl-amine | 14 mg, 28% | N1(N=NC2=C1C=CC=C2)CC2=NC1=C(N2CCNC)C=CC=C1 | C17H18N6
